US07863291B2
Step B: 6-Bromoisoquinolin-3-amine
N-(4-bromobenzyl)-2,2-diethoxyacetimidamide (1.53 g, 4.85 mmol) in sulfuric acid (4 mL, 95-98%) was heated at 40 C for 14 h. The mixture was neutralized with 1M NaOH to pH 7 and the resulting suspension was filtered. The residue was purified by silica gel chromatography with 20-55% ethyl acetate in hexanes. The desired fractions were concentrated to give a brownish yellow solid (0.434 g, 40%). LCMS:R.T.=1.62; [M+2]+=225.1.

reactant | N-(4-bromobenzyl)-2,2-diethoxyacetimidamide | 4.85 mmol, 1.53 g | BrC1=CC=C(CNC(C(OCC)OCC)=N)C=C1 | C13H19BrN2O2
reactant | NaOH | 1M | [OH-].[Na+]
solvent | sulfuric acid | 4 mL | S(O)(O)(=O)=O | H2O4S
product | 6-Bromoisoquinolin-3-amine | 0.434 g, 40% | BrC=1C=C2C=C(N=CC2=CC1)N | C9H7BrN2
